US08293897B2
N-(4-(7-(3-(7-hydroxy-5-azaspiro[2.4]heptane-5-yl)propoxy)quinolin-4-yloxy)-3-fluorophenyl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide
To a solution of N-(3-fluoro-4-(7-hydroxyquinolin-4-yloxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (200 mg, 0.413 mmol) in DMA (3 mL) was added 3-(7-hydroxy-5-azaspiro[2.4]heptane-5-yl)propyl methanesulfonate (154 mg, 0.619 mmol) and Cs2CO3 (268 mg, 0.826 mmol). The reaction was then stirred at rt for 40 hrs. The solvent was removed and the residue was partioned between saturated NaHCO3 aqueous solution (10 mL) and CHCl3 (25 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by a silica gel column chromatography (100:15:1(v/v/v)EtOAc/CH3OH/Et3N) to afford a pale yellow solid (192 mg, 73%).

reactant | N-(3-fluoro-4-(7-hydroxyquinolin-4-yloxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.413 mmol, 200 mg | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C27H21FN4O4
reactant | 3-(7-hydroxy-5-azaspiro[2.4]heptane-5-yl)propyl methanesulfonate | 0.619 mmol, 154 mg | CS(=O)(=O)OCCCN1CC2(CC2)C(C1)O | C10H19NO4S
reactant | Cs2CO3 | 0.826 mmol, 268 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | N-(4-(7-(3-(7-hydroxy-5-azaspiro[2.4]heptane-5-yl)propoxy)quinolin-4-yloxy)-3-fluorophenyl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | 192 mg, 73% | OC1CN(CC12CC2)CCCOC2=CC=C1C(=CC=NC1=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N(C2C)C)C2=CC=CC=C2)=O)F | C36H36FN5O5
